US06908916B2
Thionyl chloride (18 μL, 1.1 equiv) was added to a solution of {4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-yl}-methanol (80 mg, 0.205 mmole) in dry DCM (4 mL) at RT. After 12 min, (2S)-2-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester (65.3 mg, 1.5 equiv, H. Yanagisawa et al., Heterocycles, 1993, 35, 105.) was added followed by DIPEA (39.5 μL, 1.1 equiv). After 72 hr at RT, the solvent was removed and silica gel chromatography of the residue (gradient elution with 0 to 50% EtOAc in hexane) afforded 2-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethoxymethyl}-morpholine-4-carboxylic acid tert-butyl ester (60 mg, 50% yield); MS: 588 (M+H)+; HPLC Ret Time: 2.69 min (Xterra C18 S5, 3.0×50 mm, 3 min gradient, 4 mL/min. A solution of this material in DCM (2 mL) was cooled to 0° C. and treated with TFA (1 mL). After 90 min, the solvents were removed and the residue was dissolved in DCM. This was washed with saturated NaHCO3 solution and the organic phase was dried (Na2SO4) and the solvents removed. Purification by preparative HPLC and then radial chromatography (1 mm silica gel plate, gradient elution with 0 to 3% NH3 (2N in MeOH) in DCM gave the title compound (30 mg, 60% yield): 1H NMR (CDCl3) δ 2.84-2.58 (m, 4H), 3.65-3.35 (m, 4H) 3.65-3.35 (m, 4H), 4.87 (s, 2H), 5.58 (s, 2H), 6.54 (d, J=2.5 Hz, 1H), 6.83 (d, J=9.5 Hz, 1H), 6.98-6.90 (m, 2H), 7.32-7.20 (m, 3H), 7.48 (d, J=2.5 Hz, 1H), 7.58 (dd, J=1.8, 8.8 Hz, 1H), 7.94 (s, 1H), 8.19 (s, 1H), 9.58 (s, 1H); MS: 488 (M+H)+; HPLC Ret Time: 1.65 min (Xterra C18 S5, 3.0×50 mm, 3 min gradient, 4 mL/min).

reactant | Thionyl chloride | 18 μL, 1.1 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | {4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-yl}-methanol | 0.205 mmole, 80 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CO)C=CC1 | C21H17FN6O
reactant | (2S)-2-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 65.3 mg, 1.5 equiv | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CO | C10H19NO4
reactant | DIPEA | 39.5 μL, 1.1 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethoxymethyl}-morpholine-4-carboxylic acid tert-butyl ester | 60 mg, 50% yield | C(C)(C)(C)OC(=O)N1CC(OCC1)COCC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C31H34FN7O4
